US08471005B2
Into a 8-dram vial, N-[3-(2-Hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-pyridin-2-yl]-N-methyl-methanesulfonamide (56 mg, 0.18 mmol), N,N-Dimethylformamide (0.50 mL, 6.4 mmol), N,N-Diisopropylethylamine (0.0672 mL, 0.386 mmol) and N-Phenylbis(trifluoromethanesulphonimide) (2.77 g, 7.75 mmol) were added. The reaction mixture was stirred at room temperature for 1 hour. 2-[4-(4-Amino-phenyl)-piperidin-1-yl]-acetamide (90.0 mg, 0.386 mmol) was added. The reaction was heated at 110° C. for 3 hours. The solvent was removed under vacuum overnight The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were combined and neutralized via polymer bound sulfonic acid column with 2N NH3 in methanol. The filtrate was concentrated to afford 2-[4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-pyridin-3-yl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperidin-1-yl]-acetamide as a yellow solid (50 mg, 50%). LCMS (E/I+) 535.16 (M+H). NMR 1H (DMSO-d6)-9.42 (s, 1H), 9.01 (s, 1H), 8.56-8.61 (m, 2H), 7.64-7.69 (m, 1H), 7.56 (s, 1H), 7.54 (s, 1H), 7.19 (s, 1H), 7.07-7.14 (m, 2H), 6.98 (d, 2H, J=4.63 Hz), 3.13 (s, 3H), 3.00 (s, 3H), 2.84-2.96 (m, 4H), 2.32-2.44 (m, 1H), 2.08-2.19 (m, 2H), 1.64-176 (m, 4H).

reactant | N-[3-(2-Hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-pyridin-2-yl]-N-methyl-methanesulfonamide | 0.18 mmol, 56 mg | OC1=NN2C(C=N1)=CC=C2C=2C(=NC=CC2)N(S(=O)(=O)C)C | C13H13N5O3S
reactant | N,N-Dimethylformamide | 6.4 mmol, 0.50 mL | CN(C=O)C | C3H7NO
reactant | N,N-Diisopropylethylamine | 0.386 mmol, 0.0672 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 7.75 mmol, 2.77 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 2-[4-(4-Amino-phenyl)-piperidin-1-yl]-acetamide | 0.386 mmol, 90.0 mg | NC1=CC=C(C=C1)C1CCN(CC1)CC(=O)N | C13H19N3O
product | 2-[4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-pyridin-3-yl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperidin-1-yl]-acetamide | 50 mg, 50% | CS(=O)(=O)N(C1=NC=CC=C1C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N)C | C26H30N8O3S
